* Wurlitzer 200A Preamp — DC Operating Point vs R_ldr
* ===================================================
* Measure V(out), V(coll2), V(fb_junct), V(emit1) at various R_ldr values.
* No audio signal. Answers: how many volts does the output swing when
* R_ldr modulates between 19K and 1M?

.title Preamp DC vs R_ldr

.include ../models/transistors.lib
.include ../models/diodes.lib
.include ../subcircuits/preamp.cir

* Supply
Vcc  vcc 0  DC 14.5

* Instantiate preamp
Xpre  in_sig out vcc 0 fb_junct  wurli_preamp

* No audio — ground input through R-1
Vin  in_sig 0  DC 0

* LDR path: parametric sweep
* Use a VCVS trick: R_ldr swept via .DC on a voltage source
Vldr_ctrl  ldr_ctrl 0  DC 19K
Rldr  fb_junct 0  R='V(ldr_ctrl)'

* DC sweep: R_ldr from 19K to 1M (logarithmic would be ideal but
* ngspice .DC is linear; use multiple runs)
.DC Vldr_ctrl 19K 1000K 10K

.print DC V(out) V(Xpre.coll2) V(Xpre.emit1) V(fb_junct) V(Xpre.coll1) V(Xpre.base1)

.end
